US08664217B2
Triethylamine (0.8 ml, 5.7 mmol) was added to a dichloromethane solution (50 ml) of 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (1.22 g, 3.8 mmol) and ice-cooled. o-Nitrobenzenesulfonyl chloride (1.03 g, 4.2 mmol) was added to the resulting mixture, and stirred at room temperature for 2 hours. Water was added to the reaction mixture, and extraction with dichloromethane was performed. The organic layer was washed with water and a saturated sodium chloride aqueous solution, in this order, then dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1→0:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 1.86 g (yield: 97%) of N-(3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl)-2-nitrobenzenesulfonamide as a white amorphous solid.

reactant | Triethylamine | 5.7 mmol, 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 3.8 mmol, 1.22 g | NCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C17H25N3O3
reactant | o-Nitrobenzenesulfonyl chloride | 4.2 mmol, 1.03 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl)-2-nitrobenzenesulfonamide | 1.86 g, yield: 97% | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCNS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-] | C23H28N4O7S
